US04683223
A mixture of 0.56 g 6-chloropurine riboside, 0.5 g 7-methoxy-3-chromanylamine hydrochloride, and 0.48 g of triethylamine is refluxed in 25 ml ethanol under nitrogen for 20 hrs. Solvent is evaporated to dryness and residue is treated with cold water. The clear aqueous solution is decanted off, residue is dissolved in ethanol and volatiles are evaporated under vacuo. The crude solid is purified by flash-chromatography on silica-gel using 5% methanolchloroform as an eluant. Evaporation of solvent from pure fractions followed by crystallization from CHCl3 -hexane affords 0.35 g (42%) of N6 -[7-methoxy-3-chromanylamino]adenosine having a melting point of 205°-207° C.

reactant | 6-chloropurine riboside | 0.56 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 7-methoxy-3-chromanylamine hydrochloride | 0.5 g | Cl.COC1=CC=C2CC(COC2=C1)N
reactant | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N6 -[7-methoxy-3-chromanylamino]adenosine | 0.35 g, 42% | COC1=CC=C2CC(COC2=C1)NNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C20H24N6O6
